US07994185B2
N-{2-fluoro-3-[5-(2-{[2-(1-pyrrolidinyl)ethyl]amino}-4-pyrimidinyl)-2-(tetrahydro-2H-pyran-4-yl)-1,3-thiazol-4-yl]phenyl}-3-furansulfonamide
Following a procedure analogous to the procedure described in example 300 using N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(tetrahydro-2H-pyran-4-yl)-1,3-thiazol-4-yl]-2-fluorophenyl}-3-furansulfonamide (110 mg, 0.211 mmol), [2-(1-pyrrolidinyl)ethyl]amine (121 mg, 1.056 mmol) in 1,4-dioxane (2 mL)), the title compound was obtained as a white foam (30 mg, 22%). 1H NMR (400 MHz, DMSO-d6) ppm 1.58-1.87 (m, 6H), 2.01 (dd, J=12.88, 2.02 Hz, 2H), 2.54-2.88 (m, 6H), 3.12-3.43 (m, 3H), 3.47 (td, J=11.62, 2.02 Hz, 2H), 3.93 (dt, J=9.47, 2.21 Hz, 2H), 5.77 (s, 1H), 5.91-6.31 (m, 1H), 6.56 (d, J=1.26 Hz, 1H), 6.92 (br. s., 1H), 7.07 (t, J=7.71 Hz, 1H), 7.18 (br. s., 1H), 7.41 (td, J=8.02, 1.64 Hz, 1H), 7.70 (t, J=1.77 Hz, 1H), 8.05 (s, 1H), 8.11 (d, J=5.05 Hz, 1H); MS (ESI): 599.1 [M+H]+.

reactant | N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(tetrahydro-2H-pyran-4-yl)-1,3-thiazol-4-yl]-2-fluorophenyl}-3-furansulfonamide | 0.211 mmol, 110 mg | ClC1=NC=CC(=N1)C1=C(N=C(S1)C1CCOCC1)C=1C(=C(C=CC1)NS(=O)(=O)C1=COC=C1)F | C22H18ClFN4O4S2
reactant | [2-(1-pyrrolidinyl)ethyl]amine | 1.056 mmol, 121 mg | N1(CCCC1)CCN | C6H14N2
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | N-{2-fluoro-3-[5-(2-{[2-(1-pyrrolidinyl)ethyl]amino}-4-pyrimidinyl)-2-(tetrahydro-2H-pyran-4-yl)-1,3-thiazol-4-yl]phenyl}-3-furansulfonamide | FC1=C(C=CC=C1C=1N=C(SC1C1=NC(=NC=C1)NCCN1CCCC1)C1CCOCC1)NS(=O)(=O)C1=COC=C1 | C28H31FN6O4S2
